* source MUX_TG
M_M8         OUTPUTTG N22714 B N23228 MbreakP  
+ L=.18u  
+ W=.72u         
C_C2         0 OUTPUTTG  20p   
M_M5         N22714 SEL N22696 N22696 Mbreakp  
+ L=.18u  
+ W=1.8u         
M_M4         N22714 SEL 0 0 Mbreakn  
+ L=.18u  
+ W=.72u         
V_V7         N23170 0 1.8Vdc
V_V9         N23228 0 1.8Vdc
V_V6         SEL 0  
+PULSE 1.8V 0 0 1n 1n 1u 2u
M_M7         A N22714 OUTPUTTG 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V10         A 0  
+PULSE 1.8V 0V 0 1n 1n 3u 6u
V_V11         B 0  
+PULSE 1.8V 0V 0 1n 1n 2u 4u
M_M9         B SEL OUTPUTTG 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V5         N22696 0 1.8Vdc
M_M6         OUTPUTTG SEL A N23170 MbreakP  
+ L=.18u  
+ W=.72u         
 
.MODEL MBREAKP PMOS
.MODEL MBREAKN NMOS  
.tran 2e-0 20e-6 2e-6
.control
run
plot V(A)
plot V(B)
plot V(SEL)
plot V(OUTPUTTG) 
.endc
.end     H     T     \     d     l     é          ∞      C U R R I C U L U M     V I T A E               L I P I   B A N E R J E E               N o r m a l          	   i r i s 4 0 2 +         8         @   ÄÓì¶   @    Z„+·Ò–@   Ä¢´Ëî—         ≠     ê	        W P S   O f f i c e                                                                                                                                                                                                                                                                                                                                        